US04379167
1-(o-Chlorophenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol
A mixture of 35.1 g. (0.15 mole) of 1-(o-chlorophenoxy)-2-hydroxybutyl chloride, 32.6 g. (0.2 mole) of N-phenylpiperazine and 400 ml. of isopropanol was refluxed for 48 hr. The reaction mixture was allowed to stand in a refrigerator overnight and filtered. The filtrate was treated with ethereal hydrogen chloride and the salt precipitated by the addition of ether. The white crystalline solid which formed was dissolved in 0.1 mole of hydrochloric acid and then neutralized with sodium hydroxide producing a crystalline precipitate. This was recrystallized with isopropanol yielding 36 g. of the free base of the product which melted at 100°-101.5° C.

reactant | 1-(o-chlorophenoxy)-2-hydroxybutyl chloride | 0.15 mole | ClC1=C(OC(C(CC)O)Cl)C=CC=C1 | C10H12Cl2O2
reactant | N-phenylpiperazine | 0.2 mole | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | hydrochloric acid | 0.1 mole | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(o-Chlorophenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol | ClC1=C(OCC(CCN2CCN(CC2)C2=CC=CC=C2)O)C=CC=C1 | C20H25ClN2O2
